US08003006B2
(1-6) Synthesis of 2,3-difluoro-1-(trans-4-(trans-4-vinylcyclohexyl)cyclohexyl)methoxybenzene
In DMF, trans-4-(trans-4-vinylcyclohexyl)cyclohexylmethyl methanesulfonate was dissolved, and 2,3-difluorophenol and tripotassium phosphate were added thereto, and then stirred for 2 hours at 80 to 100° C. Water and toluene were added thereto, and the organic layer was fractioned. The resultant product was washed with water and saturated saline, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by column chromatography, to thereby obtain 2,3-difluoro-1-(trans-4-(trans-4-vinylcyclohexyl)cyclohexyl)methoxybenzene.

reactant | 2,3-difluorophenol | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | tripotassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | trans-4-(trans-4-vinylcyclohexyl)cyclohexylmethyl methanesulfonate | CS(=O)(=O)OC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=C | C16H28O3S
solvent | DMF | CN(C)C=O | C3H7NO
product | 2,3-difluoro-1-(trans-4-(trans-4-vinylcyclohexyl)cyclohexyl)methoxybenzene | FC1=C(C=CC=C1F)OC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=C | C21H28F2O
